US08729271B2
1,1,1-Trifluoro-N-{[2-(4-fluorophenyl)pyridin-4-yl]methyl}propan-2-amine
A mixture of N-[(2-bromopyridin-4-yl)methyl]-1,1,1-trifluoropropan-2-amine (150 mg), 4-fluorophenylboronic acid (111 mg), cesium carbonate (345 mg), tetrakis(triphenylphosphine)palladium (61 mg), toluene (0.6 mL), ethanol (0.6 mL) and water (4.0 mL) was stirred while heating at 100° C. for 3 hr. The supernatant of the reaction mixture was purified by column chromatography (silica gel cartridge, hexane:ethyl acetate=95:5-60:40) to afford the title compound (143 mg).

reactant | N-[(2-bromopyridin-4-yl)methyl]-1,1,1-trifluoropropan-2-amine | 150 mg | BrC1=NC=CC(=C1)CNC(C(F)(F)F)C | C9H10BrF3N2
reactant | 4-fluorophenylboronic acid | 111 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | cesium carbonate | 345 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | toluene | 0.6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 61 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 4.0 mL | O | H2O
solvent | ethanol | 0.6 mL | C(C)O | C2H6O
product | 1,1,1-Trifluoro-N-{[2-(4-fluorophenyl)pyridin-4-yl]methyl}propan-2-amine | 143 mg | FC(C(C)NCC1=CC(=NC=C1)C1=CC=C(C=C1)F)(F)F | C15H14F4N2
